Ring CMOS Oscillator
* Oscillation is taken on node "bout".
* Predicted frequency is 3.8e+09 Hz.
*
* PLOT bout

* Supply
vdd	vdd	gnd	1.2 pwl 0 1.2 1e-9 1.2
rdd	vdd	vdd_ana	70m
rgnd	gnd	gnd_ana	70m

* Inverter
mp1	inv1	inv3	vdd_ana vdd_ana	pch	w=10u l=0.18u
mn1	inv1	inv3	gnd_ana	gnd_ana	nch	w=10u l=0.18u
mp2	inv2	inv1	vdd_ana	vdd_ana	pch	w=10u l=0.18u
mn2	inv2	inv1	gnd_ana	gnd_ana	nch	w=10u l=0.18u
mp3	inv3	inv2	vdd_ana	vdd_ana	pch	w=10u l=0.18u
mn3	inv3	inv2	gnd_ana	gnd_ana	nch	w=10u l=0.18u

* Buffer out
mp4	bout	inv3	vdd_ana	vdd_ana	pch	w=10u l=0.18u
mn4	bout	inv3	gnd_ana	gnd_ana	nch	w=10u l=0.18u

.model nch nmos ( version=4.7 level=54 lmin=0.1u lmax=20u wmin=0.1u wmax=10u  )
.model pch pmos ( version=4.7 level=54 lmin=0.1u lmax=20u wmin=0.1u wmax=10u  )

.control
tran 0.005n 100n uic
plot v(bout)
linearize bout
fft bout
set xbrushwidth=3
plot mag(bout) xlimit 0 35G

reset
pss 2G 10n bout 1024 10 5 5e-3 uic
plot mag(bout) arrowplot xlimit 0 35G
.endc

.end

